US09303033B2
To (Z)-5-((5-(5-chloro-2-fluorophenylamino)-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)-3-(hydroxymethyl)imidazolidine-2,4-dione (100 mg, 0.218 mmol) in pyridine (4.5 mL) was added glutaric anhydride (125 mg, 1.095 mmol), and DMAP (3 mg, 0.022 mmol). The reaction mixture was stirred at 75° C. overnight after which the reaction was not complete. Added glutaric anhydride (125 mg, 1.095 mmol) and DMAP (3 mg, 0.022 mmol) and stirred an additional 16 hours at 75° C. Cooled to 0° C. in ice bath and added 6M HCl until pH was less than 3 by pH paper. Filtered off the solid and washed with 0.1M HCl. Dried under vacuum to provide 40 mg (32%) of (Z)-5-((4-((5-(5-chloro-2-fluorophenylamino)-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)-2,5-dioxoimidazolidin-1-yl)methoxy)-5-oxopentanoic acid as a yellow solid. LCMS (ES): >95% pure, m/z 572 [M+1]+.

reactant | (Z)-5-((5-(5-chloro-2-fluorophenylamino)-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)-3-(hydroxymethyl)imidazolidine-2,4-dione | 0.218 mmol, 100 mg | ClC=1C=CC(=C(C1)NC1=NC=2N(C(=C1)NC1CC1)N=CC2\C=C/2\C(N(C(N2)=O)CO)=O)F | C20H17ClFN7O3
reactant | glutaric anhydride | 1.095 mmol, 125 mg | C1(CCCC(=O)O1)=O | C5H6O3
reactant | glutaric anhydride | 1.095 mmol, 125 mg | C1(CCCC(=O)O1)=O | C5H6O3
reactant | HCl | 6M | Cl | ClH
solvent | pyridine | 4.5 mL | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | 0.022 mmol, 3 mg | CN(C)C=1C=CN=CC1 | C7H10N2
catalyst | DMAP | 0.022 mmol, 3 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (Z)-5-((4-((5-(5-chloro-2-fluorophenylamino)-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)-2,5-dioxoimidazolidin-1-yl)methoxy)-5-oxopentanoic acid | 40 mg, 32% | ClC=1C=CC(=C(C1)NC1=NC=2N(C(=C1)NC1CC1)N=CC2\C=C\2/NC(N(C2=O)COC(CCCC(=O)O)=O)=O)F | C25H23ClFN7O6
